US04315846
In 200 ml of water, 47 g (0.05 mol) of an aqueous 40% sodium N-(2-hydroxy-3-isopropoxypropyl)-ethylenebisdithiocarbamate was stirred at room temperature. To the resultant aqueous solution, 13.6 g (0.05 mol) of an aqueous 50% zinc chloride solution was gradually added dropwise. After the dropwise addition, the reaction solution was stirred continuously for three hours at room temperature. The crystals which consequently educed in the solution were separated by filtration and washed with water. The washed crystals were dried at 50° to 60° C. under a vacuum. Thus was obtained zinc N-(2-hydroxy-3-isopropoxypropyl)-ethylenebisdithiocarbamate (Compound No. 6). Copper, iron, nickel, cobalt, tin, calcium or magnesium salt could easily be produced by using the water-soluble salt of copper, iron, nickel, cobalt, tin, calcium, or magnesium in the equivalent weight in place of zinc chloride. The compounds prepared by the procedure described above were as shown below.

reactant | sodium N-(2-hydroxy-3-isopropoxypropyl)-ethylenebisdithiocarbamate | OC(CN(C([S-])=S)CCNC([S-])=S)COC(C)C.[Na+].[Na+]
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | 200 ml | O | H2O
product | zinc N-(2-hydroxy-3-isopropoxypropyl)-ethylenebisdithiocarbamate | OC(CN(C([S-])=S)CCNC([S-])=S)COC(C)C.[Zn+2] | InChI=1S/C10H20N2O2S4.Zn/c1-7(2)14-6-8(13)5-12(10(17)18)4-3-11-9(15)16;/h7-8,13H,3-6H2,1-2H3,(H,17,18)(H2,11,15,16);/q;+2/p-2
